US06911543B2
Furo[2,3-c]pyridin-5-ylmethyl acetate (5.17 g, 27.05 mmol) is dissolved in CH2Cl2 (130 mL), layered with saturated NaHCO3 (220 mL), treated with Br2 (8.36 mL, 162.3 mmol) and stirred very slowly for 4.5 h at rt. The mixture is stirred vigorously for 30 min, is diluted with CH2Cl2 (100 mL) and the layers separated. The aqueous layer is extracted with CH2Cl2 (2×100 mL) and the combined organics are concentrated to a small volume under a stream of nitrogen. The solution is diluted with EtOH (200 mL), treated with K2CO3 (22.13 g, 160.1 mmol) and stirred for 2.5 days at rt. The mixture is concentrated to dryness, partitioned between 50% saturated NaCl (200 mL) and CH2Cl2 (5×200 mL), dried over Na2SO4 and concentrated in vacuo to a yellow solid (6.07 g). The crude material is adsorbed onto silica gel (12 g) and chromatographed over 250 g slurry-packed silica gel, eluting with a gradient of 50% EtOAc/hexane to 100% EtOAc. The appropriate fractions are combined and concentrated in vacuo to afford 5.02 g (81%) of (3-bromofuro[2,3-c]pyridin-5-yl)methanol as a white solid. MS (EI) m/z: 227 (M+).

reactant | Furo[2,3-c]pyridin-5-ylmethyl acetate | 27.05 mmol, 5.17 g | C(C)(=O)OCC=1C=C2C(=CN1)OC=C2 | C10H9NO3
reactant | NaHCO3 | 220 mL | C(=O)(O)[O-].[Na+]
reactant | Br2 | 162.3 mmol, 8.36 mL | BrBr | Br2
reactant | K2CO3 | 160.1 mmol, 22.13 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 130 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (3-bromofuro[2,3-c]pyridin-5-yl)methanol | 5.02 g, 81% | BrC1=COC2=CN=C(C=C21)CO | C8H6BrNO2
